US08648208B2
(1) 1-[2-Fluoro-4-(trifluoromethyl)phenyl]pentan-1-one
The titled compound was prepared from 1-bromo-2-fluoro-4-(trifluoromethyl)benzene (200 mg, 0.823 mmol) and valeraldehyde (0.05 mL, 0.8 mmol) in a procedure similar to that of Example 9 (1) as a pale yellow oil (114 mg, yield 97%).

reactant | 1-bromo-2-fluoro-4-(trifluoromethyl)benzene | 0.823 mmol, 200 mg | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | valeraldehyde | 0.8 mmol, 0.05 mL | C(CCCC)=O | C5H10O
product | 1-[2-Fluoro-4-(trifluoromethyl)phenyl]pentan-1-one | FC1=C(C=CC(=C1)C(F)(F)F)C(CCCC)=O | C12H12F4O
